US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-2-methylbenzamide
To an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (100 mg, 0.41 mmol) and triethylamine (85 μL, 0.62 mmol) in methylene chloride (15 mL) was added dropwise 2-methylbenzoyl chloride (66 mg, 0.43 mmol) in methylene chloride (5 mL). After the addition, the reaction was allowed to stir at ambient temperature for 15 min and was then washed with water. The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:3.5) as the eluent. Yield: 100 mg (80%) of the title compound as white crystals: mp 179-180° C.; [α]21D -22° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 363 (21, M+).

reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.41 mmol, 100 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 0.62 mmol, 85 μL | C(C)N(CC)CC | C6H15N
reactant | 2-methylbenzoyl chloride | 0.43 mmol, 66 mg | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-2-methylbenzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=C(C=CC=C1)C)=O | C23H29N3O
